US08076345B2
C) N-((6-Methoxypyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine
A mixture of 6-benzyl-N-((6-methoxypyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine (1.90 g, 5.26 mmol), MeOH (100 mL), and 10% Pd—C (600 mg) was hydrogenated at 1 atm for 3 days. LC-MS indicated complete conversion. Catalyst was filtered off and the filtrate was concentrated in vacuo to yield a light yellow foam.

reactant | 6-benzyl-N-((6-methoxypyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 5.26 mmol, 1.90 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)OC)CC1 | C21H23N5O
catalyst | Pd—C | 600 mg | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | N-((6-Methoxypyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | COC1=CC=C(C=N1)CNC=1C2=C(N=CN1)CCNC2 | C14H17N5O
